US06858625B1
Synthesis of ethyl 8-bromo-1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To a chloroform solution (5 mL) in which ethyl 3-ethoxy-2-(3-bromo-2,4,5-trifluorobenzoyl)acrylate prepared from ethyl 3-bromo-2,4,5-trifluorobenzoylacetate (1.32 g) in a manner known per se in the art was dissolved, 2-amino-6-(t-butylamino) -3,5-difluoropyridine was added under TLC monitoring of the reaction until conversion into an amino acrylate derivative was completed. The reaction mixture was concentrated under reduced pressure to obtain a yellow solid residue. To the residue, anhydrous potassium carbonate (1.2 g) and N,N-dimethylformamide (2 mL) were added, and the mixture was stirred at 90° for 15 minutes. The mixture was allowed to cool down. Chloroform (30 mL) and distilled water (300 mL) were added, and the mixture was allowed to separate into layers. The chloroform layer was washed twice with distilled water (300 mL), dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and then left over. The precipitate was collected by filtration, and washed successively with ethanol and diisopropyl ether in this order to obtain the title compound (1.41 g) as a colorless powder.

reactant | ethyl 3-ethoxy-2-(3-bromo-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Br)F)=O | C14H12BrF3O4
reactant | ethyl 3-bromo-2,4,5-trifluorobenzoylacetate | 1.32 g | BrC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8BrF3O3
reactant | 2-amino-6-(t-butylamino) -3,5-difluoropyridine | NC1=NC(=C(C=C1F)F)NC(C)(C)C | C9H13F2N3
reactant | amino acrylate | C(C=C)(=O)ON | C3H5NO2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-bromo-1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.41 g | BrC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC(C)(C)C)C(=O)OCC)=O)F)F | C21H18BrF4N3O3
